US07365069B2
N-[4-(Methylthio)phenyl]-4-(trifluoromethyl)benzenecarboximidamide
The title compound was prepared from 4-trifluoromethylbenzonitrile (0.62 g, 3.6 mmol) and 4-methylthioaniline (0.5 g, 3.6 mmol) by following the procedure described in preparation 1, (0.495 g, 44.4%, purity 98.3% by HPLC), mp 144-146° C. 1H-NMR (CDCl3):δ 2.49 (s, 3H), 4.8 (bs, 2H), 6.93-6.95 (d, 2H), 7.26-7.32 (m, 2H), 7.70-7.72 (d, 2H), 7.99-8.01 (d, 2H). MS m/z:311.1(M+).

reactant | 4-trifluoromethylbenzonitrile | 3.6 mmol, 0.62 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | 4-methylthioaniline | 3.6 mmol, 0.5 g | CSC1=CC=C(N)C=C1 | C7H9NS
product | N-[4-(Methylthio)phenyl]-4-(trifluoromethyl)benzenecarboximidamide | CSC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)C(F)(F)F | C15H13F3N2S
